US06358980B1
Ethyl 4-({[4-(2-butynyloxy)phenyl]sulfonyl}methyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylate
Ethyl 4-({[4-(2-butynyloxy)phenyl]sulfonyl}methyl)-1-[(2,2,5-trimethyl-1,3-dioxan 5-yl)carbonyl]-4-piperidinecarboxylate was prepared according to the general method as outlined in Example 30 (step 8). Starting from 4-[[[4-(2-Butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylicacid ethyl ester (0.333 g, 0.8 mmol) and 2,2,5-trimethyl-(1,3)dioxane-5-carboxylic acid (0.168 g, 0.96 mmol), 0.339 g (79%) of the desired product was isolated as a white solid. Electrospray Mass Spec: 536.1 (M+H)+

reactant | 4-[[[4-(2-Butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylicacid ethyl ester | 0.8 mmol, 0.333 g | C(C)OC(=O)C1(CCNCC1)CS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C19H25NO5S
reactant | 2,2,5-trimethyl-(1,3)dioxane-5-carboxylic acid | 0.96 mmol, 0.168 g | CC1(OCC(CO1)(C(=O)O)C)C | C8H14O4
product | Ethyl 4-({[4-(2-butynyloxy)phenyl]sulfonyl}methyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylate | 0.339 g, 79% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)CC1(CCN(CC1)C(=O)C1(COC(OC1)(C)C)C)C(=O)OCC | C27H37NO8S
